US04800199
(6R-trans)-3-[(Acetyloxy)methyl]-7-[(4-carboxy-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 300 mg of (6R-trans)-3-[(acetyloxy)methyl]-7-[(4-carboxy-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 1 ml of trifluoroacetic acid, 0.25 ml of anisole and 3 ml of dichloromethane was allowed to stand for 45 minutes, then the solid was collected, washed with ether and petroleum ether and dried, giving 155 mg of the desired compound.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-7-[(4-carboxy-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 300 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C(=O)O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23N3O7S2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 0.25 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[(4-carboxy-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 155 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C(=O)O)=O)C(=O)O | C14H13N3O7S2
